US07589232B2
Step c) Formation of 4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(3-cyclopentylpropanoyl)amino]-methyl}benzoic acid
The titled compound was prepared following the procedure F using methyl 4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(3-cyclopentylpropanoyl)amino]methyl}benzoate and NaOH 1M as a yellow foam (77%). 1H NMR (CDCl3, 300 MHz) δ 8.15-8.02 (m, 2H), 7.56-7.40 (m, 4H), 7.33-7.22 (m, 2H), 7.21-7.08 (m, 4H), 4.69-4.58 (m, 2H), 4.54-4.43 (m, 2H), 2.61 (t, J=7.7 Hz, 2H), 2.49-2.35 (m, 2), 1.81-1.0 (m, 15H), 0.93 (t, J=7.3 Hz, 3H). M− (ESI): 520.4; M1(ESI): 522.3. HPLC, Rt: 5.71 min (Purity: 99.2%).

reactant | methyl 4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(3-cyclopentylpropanoyl)amino]methyl}benzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCC2CCCC2)=O)CC2=CC=C(C(=O)OC)C=C2)C=C1 | C36H41NO3
reactant | NaOH | 1M | [OH-].[Na+]
product | 4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(3-cyclopentylpropanoyl)amino]-methyl}benzoic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCC2CCCC2)=O)CC2=CC=C(C(=O)O)C=C2)C=C1 | C35H39NO3
